US05594023
tert-Butyl 4-[5-chloro-3-(2-chlorophenyl)-2,3-dihydro-3-dimethylamino-2-oxoindol-1-yl]methylbenzoate
This compound is prepared according to the procedure described in EXAMPLE 89 from 1.5 g of 5-chloro-3-(2-chlorophenyl)-1,3-dihydro-3-dimethylaminoindol-2-one and 1.40 g of tert-butyl 4-bromomethylbenzoate. Chromatography on silica using a gradient of an AcOEt/hexane mixture (from 10/90; v/v to 20/80; v/v) as the eluent gives the expected product. m=1.5 g.

reactant | 5-chloro-3-(2-chlorophenyl)-1,3-dihydro-3-dimethylaminoindol-2-one | 1.5 g | ClC=1C=C2C(C(NC2=CC1)=O)(N(C)C)C1=C(C=CC=C1)Cl | C16H14Cl2N2O
reactant | tert-butyl 4-bromomethylbenzoate | 1.40 g | BrCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H15BrO2
solvent | AcOEt hexane | CCOC(=O)C.CCCCCC
product | tert-Butyl 4-[5-chloro-3-(2-chlorophenyl)-2,3-dihydro-3-dimethylamino-2-oxoindol-1-yl]methylbenzoate | ClC=1C=C2C(C(N(C2=CC1)CC1=CC=C(C(=O)OC(C)(C)C)C=C1)=O)(N(C)C)C1=C(C=CC=C1)Cl | C28H28Cl2N2O3
